US06060469
3-(4-Trifluoromethoxyphenyl)pyridine
4-(Trifluoromethoxy) phenyl boronic acid (1.3 g, 6.31 mmol) was dissolved in ethylene glycol dimethyl ether (50 ml). 3-Bromopyridine (1 ml, 9.5 mmol), aqueous sodium carbonate (2M, 30 ml), and Pd(dppb)Cl2 (100 mg) were added and the reaction mixture was stirred at 85° C. for 3 hours. The mixture was allowed to cool to room temperature, then water (200 ml) was added and the mixture was extracted with ethyl acetate (3×100 ml). The combined organic fractions were dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was purified by flash column chromatography on silica gel, eluting with hexane/ether (60:40) to give the title compound as an oil (1.26 g, 84%). 1H NMR (250 MHz, CDCl3) δ 8.84 (1H, s), 8.60 (1H, br d), 7.87 (1H, m), 7.61 (2H, m), and 7.36 (3H, m). m/z (ES+) 240 (M+1).

reactant | 4-(Trifluoromethoxy) phenyl boronic acid | 6.31 mmol, 1.3 g | FC(OC1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O3
reactant | 3-Bromopyridine | 9.5 mmol, 1 ml | BrC=1C=NC=CC1 | C5H4BrN
reactant | sodium carbonate | 2M, 30 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 200 ml | O | H2O
solvent | ethylene glycol dimethyl ether | 50 ml | COCCOC | C4H10O2
product | 3-(4-Trifluoromethoxyphenyl)pyridine | 1.26 g, 84% | FC(OC1=CC=C(C=C1)C=1C=NC=CC1)(F)F | C12H8F3NO
